US09278950B2
Step 2. Methyl {(3R,4S,5S)-3-amino-1-[3-({[3-amino-7-(4-methylpiperazin-1-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidin-4-yl}carbamate
To a solution of tert-butyl methyl {(3R,4S,5S)-1-[3-({[3-{[(benzyloxy)carbonyl]amino}-7-(4-methylpiperazin-1-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidine-3,4-diyl}biscarbamate (62 mg, 0.080 mmol) in MeOH (3.0 mL), 10% Pd on carbon (15 mg) was added. The reaction mixture was deoxygenated under reduced pressure and hydrogen was introduced via a balloon. The reaction mixture was stirred at room temperature under the hydrogen balloon for 1 h. The mixture was filtered and concentrated under reduced pressure. The resulting residue was dissolved in DCM (2 mL), and TFA (2 mL) was added. The resulting mixture was stirred at room temperature for 1 h, then concentrated under reduced pressure. The residue was purified by preparative LCMS (pH=10 method; XBridge™ preparative C18 5 μm OBD™ column, 30×10 mm, 60 mL/min., eluting with a gradient of MeCN and water with 0.1% NH4OH) to give the title compound as a yellow powder (29 mg, 65%). LCMS calc. for C28H38N9O3 (M+H)+: m/z=548.3. Found: 548.4.

reactant | tert-butyl methyl {(3R,4S,5S)-1-[3-({[3-{[(benzyloxy)carbonyl]amino}-7-(4-methylpiperazin-1-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidine-3,4-diyl}biscarbamate | 0.080 mmol, 62 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1CCN(CC1)C)C(=O)NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)NC(OC)=O)NC(OC(C)(C)C)=O | C41H51N9O7
solvent | MeOH | 3.0 mL | CO | CH4O
catalyst | Pd on carbon | 15 mg | [Pd] | Pd
product | Methyl {(3R,4S,5S)-3-amino-1-[3-({[3-amino-7-(4-methylpiperazin-1-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidin-4-yl}carbamate | 29 mg, 65% | N[C@@H]1CN(C[C@@H]([C@@H]1NC(OC)=O)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1N)N1CCN(CC1)C | C28H37N9O3
